US07256305B2
In a 50 mL-volumetric autoclave were added deaerated ethanol (10 mL) and toluene, and thereto were added 4-aminopyridine (47 mg, 0.5 mmol) and (S)-ethylglycidyl ether (2.0 g, 20 mmol, >99% ee). Then to the mixture was added crystalline dicobaltoctacarbonyl complex (171 mg, 0.5 mmol). After covering the autoclave with a cap, carbon monoxide (1 MPa) was introduced therein and the mixture was reacted at 40° C. for 18 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was subjected to Kugelrohr distillation to give (S)-4-ethoxy-3-hydroxybutanoic acid ethyl ester (3.0 g, 85%, >99% ee) as a colorless oil.

reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | 4-aminopyridine | 0.5 mmol, 47 mg | NC1=CC=NC=C1 | C5H6N2
reactant | (S)-ethylglycidyl ether | 20 mmol, 2.0 g | C(C)OC[C@@H]1CO1 | C5H10O2
reactant | carbon monoxide | [C]=O | CO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (S)-4-ethoxy-3-hydroxybutanoic acid ethyl ester | 3.0 g, 85% | C(C)OC(C[C@@H](COCC)O)=O | C8H16O4
